US07842688B2
a) tert-Butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-[1-(3-methoxypropyl)-3,3-dimethyl-2-oxo-2,3-dihydro-1H-indol-6-ylmethoxy]piperidine-1-carboxylate
Analogously to Method D, 0.853 g of tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate and 0.504 g of 6-bromomethyl-1-(3-methoxypropyl)-3,3-dimethyl-1,3-dihydroindol-2-one are reacted. The title compound is obtained as a slightly yellowish oil. Rf=0.14 (1:1 EtOAc-heptane); Rt=6.13.

reactant | tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.853 g | OC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OC(C)(C)C | C27H37NO6
reactant | 6-bromomethyl-1-(3-methoxypropyl)-3,3-dimethyl-1,3-dihydroindol-2-one | 0.504 g | BrCC1=CC=C2C(C(N(C2=C1)CCCOC)=O)(C)C | C15H20BrNO2
product | tert-Butyl 4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}-3-[1-(3-methoxypropyl)-3,3-dimethyl-2-oxo-2,3-dihydro-1H-indol-6-ylmethoxy]piperidine-1-carboxylate | COC1=C(COCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OC(C)(C)C)OCC2=CC=C3C(C(N(C3=C2)CCCOC)=O)(C)C)C=CC=C1 | C42H56N2O8
